US07943567B2
The 3-(2,2,2-trifluoro-1-trifluoromethyl-ethoxy)-propane-1-sulfonyl chloride (18.4 grams) can be dissolved in 100 mL of chloroform and added to 22.5 mL of dimethylaminopropylamine in 100 mL of chloroform at 0° C.-5° C. over 1 hour to form a mixture. When the addition is complete the mixture can be allowed to warm to room temperature and stir at ambient for 1 hour. The mixture can be washed with saturated bicarbonate solution (200 mL), deionzied water (200 mL), and brine (200 mL). The organic layer can be dried over magnesium sulfate, filtered, and concentrated under vacuum to afford a yellow oil that can be placed on the Kugelrohr for 15 minutes at ambient temperature and 0.1 Torr to afford 3-(2,2,2-trifluoro-1-trifluoromethyl-ethoxy)-propane-1-sulfonic acid (3-dimethylamino-propyl)-amide (20.88 g (92.8%)) by NMR.

reactant | 3-(2,2,2-trifluoro-1-trifluoromethyl-ethoxy)-propane-1-sulfonyl chloride | 18.4 grams | FC(C(OCCCS(=O)(=O)Cl)C(F)(F)F)(F)F | C6H7ClF6O3S
reactant | dimethylaminopropylamine | 22.5 mL | CN(C)CCCN | C5H14N2
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(2,2,2-trifluoro-1-trifluoromethyl-ethoxy)-propane-1-sulfonic acid (3-dimethylamino-propyl)-amide | 20.88 g, 92.8% | CN(CCCNS(=O)(=O)CCCOC(C(F)(F)F)C(F)(F)F)C | C11H20F6N2O3S
